US08278441B2
(4aR,6R,7aS)-2-Amino-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-6-ol hydrochloride
A mixture of N-((4aR,6R,7aS)-6-hydroxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide (0.061 g, 0.133 mmol), o-methylhydroxylamine hydrochloride (0.111 g, 1.3 mmol) and pyridine (0.105 g, 1.30 mmol) in ethanol (5 mL) is heated to 50° C. for 15 h. The mixture is concentrated under reduced pressure. The crude product is purified by silica gel chromatography eluting with 0.5% to 10% NH3 (7 N solution in methanol) in dichloromethane over 30 minutes to afford the title compound as a freebase (0.041 g, 87%). ES/MS m/e: 355 (M+1). A 1 N solution of HCl in Et2O (0.139 mL, 0.139 mmol) is added to a solution of (4aR,6R,7aS)-2-amino-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-6-ol (0.041 g, 0.116 mmol) in minimal dichloromethane and methanol. The solvent is removed under reduced pressure to give the title compound (0.045 g, 86%). ES/MS m/e: 355 (M+1).

reactant | HCl | Cl | ClH
reactant | Et2O | 0.139 mmol, 0.139 mL | CCOCC | C4H10O
reactant | (4aR,6R,7aS)-2-amino-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-6-ol | 0.116 mmol, 0.041 g | NC=1SC[C@H]2[C@@](N1)(C[C@@H](C2)O)C=2C=C(C=CC2)C2=CC(=CC=C2)OC | C20H22N2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (4aR,6R,7aS)-2-Amino-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-6-ol hydrochloride | 0.045 g, 86% | Cl.NC=1SC[C@H]2[C@@](N1)(C[C@@H](C2)O)C=2C=C(C=CC2)C2=CC(=CC=C2)OC | InChI=1S/C20H22N2O2S.ClH/c1-24-18-7-3-5-14(9-18)13-4-2-6-15(8-13)20-11-17(23)10-16(20)12-25-19(21)22-20;/h2-9,16-17,23H,10-12H2,1H3,(H2,21,22);1H/t16-,17+,20+;/m0./s1
